US07435837B2
Treatment of (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (5.0 g, 13.05 mmol) with 2,4-difluorophenylboronic acid (3.09 g, 19.57 mmol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (0.512 g, 0.651 mmol), and potassium carbonate (4.51 g, 32.62 mmol) generally according to the procedure described for Intermediate 37 afforded 4.43 g (82%) of (±)-[7-(2,4-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a white solid. mp 116-118° C.; Anal. calcd. for C22H18F2O4S: C, 63.45; H, 4.36. Found: C, 63.3; H, 4.11.

reactant | (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 13.05 mmol, 5.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2Br | C16H15BrO4S
reactant | 2,4-difluorophenylboronic acid | 19.57 mmol, 3.09 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | potassium carbonate | 32.62 mmol, 4.51 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | 0.651 mmol, 0.512 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | (±)-[7-(2,4-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 4.43 g, 82% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=C(C=C2)F)F | C22H18F2O4S
